US07691843B2
To a stirred solution of 3,4-dimethoxy-5-propylbenzylalcohol (171 mg, 0.82 mmol) in CH2Cl2 (5.0 mL) at room temperature was added triethylamine (0.23 mL, 1.63 mmol) followed by methanesulfonyl chloride (95 μL, 1.22 mmol, 1.5 eq.). After 30 min the reaction mixture was diluted with hexanes (20 mL) and filtered through a pad of silica gel. The pad was then washed with 25% EtOAc in hexanes (100 mL). The combined organic filtrate was then concentrated to give methanesulfonic acid 3,4-dimethoxy-5-propylbenzyl ester (122 mg) as oil, which was used without further purification.

reactant | 3,4-dimethoxy-5-propylbenzylalcohol | 0.82 mmol, 171 mg | COC=1C=C(CO)C=C(C1OC)CCC | C12H18O3
reactant | triethylamine | 1.63 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.22 mmol, 95 μL, 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3,4-dimethoxy-5-propylbenzyl ester | 122 mg | COC=1C=C(COS(=O)(=O)C)C=C(C1OC)CCC | C13H20O5S
